US07838547B2
4-Cyclobutylmethoxybenzoic acid
4-Hydroxybenzoic acid ethyl ester was alkylated with cyclobutyl bromide by standard methods (DMF, Cs2CO3), and the resulting ester was hydrolyzed by boiling with sodium hydroxide in aqueous ethanol. The product with the molecular weight of 206.24 (C12H14O3); MS (ESI): 207 (M+H+) was obtained in this way.

reactant | 4-Hydroxybenzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)O)=O | C9H10O3
reactant | cyclobutyl bromide | C1(CCC1)Br | C4H7Br
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-Cyclobutylmethoxybenzoic acid | C1(CCC1)COC1=CC=C(C(=O)O)C=C1 | C12H14O3
